US05086165
(S)-(1-Butyl-3-diazo-2-oxopropyl)carbamic acid, 1.1-Dimethylethyl Ester 1
A solution of Boc-Norleucine (6.9 g, 30 mmol) in ethyl acetate (EtOAc) (80 mL) was cooled to -25° C. and N-methylmorpholine (3.3 mL, 30 mmol) was added followed by isobutyl chloroformate (4.2 mL, 32 mmol). The mixture was stirred for 15 minutes at -25° C. and diethylether (Et2O) (50 mL) was then added. After cooling the mixture to -50° C., the white precipitate was filtered under N2 and the cold filtrate was treated with a solution of diazomethane in Et2O (130 mL, 0.4 M, 52 mmol). The mixture was allowed to proceed overnight, gradually warming up to room temperature. Excess of diazomethane was removed by bubbling a N2 stream through the solution and the solvent was then evaporated. The residual oil was dissolved in EtOAc (100 mL) and was washed with saturated NaHCO3 (1×100 mL) and brine (1×100 mL). The organic layer was dried over Na2SO4, filtered and concentrated to yield 7.5 g (98)% of crude product.

reactant | Boc-Norleucine | 30 mmol, 6.9 g | C(=O)(OC(C)(C)C)N[C@@H](CCCC)C(=O)O | C11H21NO4
reactant | N-methylmorpholine | 30 mmol, 3.3 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 32 mmol, 4.2 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | diethylether | 50 mL | C(C)OCC | C4H10O
solvent | Et2O | 52 mmol, 0.4 M, 130 mL | CCOCC | C4H10O
product | (S)-(1-Butyl-3-diazo-2-oxopropyl)carbamic acid, 1.1-Dimethylethyl Ester | C(CCC)[C@@H](C(C=[N+]=[N-])=O)NC(OC(C)(C)C)=O | C12H21N3O3
